US08748613B2
Preparation of 2-(azepan-1-yl)-2-phenylacetic acid (I71)
A mixture of phenylboronic acid (400 mg, 3.28 mmol), azepane (0.37 ml, 3.28 mmol) and 2-oxoacetic acid hydrate (302 mg, 3.28 mmol) dissolved in DCM (30 ml) was stirred at room temperature overnight. DCM was removed under vacuum and the crude was purified by flash chromatography (DCM/MeOH=8/2) to obtain the title compound (476 mg, 62.2% yield) as a white solid.

reactant | phenylboronic acid | 3.28 mmol, 400 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | azepane | 3.28 mmol, 0.37 ml | N1CCCCCC1 | C6H13N
reactant | 2-oxoacetic acid hydrate | 3.28 mmol, 302 mg | O.O=CC(=O)O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(azepan-1-yl)-2-phenylacetic acid | 476 mg, 62.2% yield | N1(CCCCCC1)C(C(=O)O)C1=CC=CC=C1 | C14H19NO2
